US05710156
A mixture of ethyl 4-[5-[(phenoxycarbonyl)amino]-2-pyridinyl]-1-piperazinecarboxylate (0.3 mol crude residue) and hydrazine hydrate (1.5 mol) in 1,4-dioxane (1100 ml) was stirred for 6 hours at room temperature. The reaction mixture was poured into water (4000 ml) and the resulting precipitate was filtered. The filtrate was extracted three times with CH2Cl2 (700 ml each time). The separated organic layer was washed with water, dried, filtered and the solvent was evaporated. The residue was stirred in DIPE. The precipitate was filtered and dried (25° C.; 20 hours), yielding 62 g (67%) of ethyl 4-[5-[(hydrazinocarbonyl)amino]-2-pyridinyl]-1-piperazinecarboxylate (interm. 9).

reactant | ethyl 4-[5-[(phenoxycarbonyl)amino]-2-pyridinyl]-1-piperazinecarboxylate | 0.3 mol | O(C1=CC=CC=C1)C(=O)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC | C19H22N4O4
reactant | hydrazine hydrate | 1.5 mol | O.NN
reactant | water | 4000 ml | O | H2O
solvent | 1,4-dioxane | 1100 ml | O1CCOCC1 | C4H8O2
product | ethyl 4-[5-[(hydrazinocarbonyl)amino]-2-pyridinyl]-1-piperazinecarboxylate | 62 g, 67% | N(N)C(=O)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC | C13H20N6O3
